### PR TITLE
Add proofs by Gauss in `ModularForms/Delta.lean`

### PR DESCRIPTION
**Pull request by gauss-math-inc**
This PR contributes 2 proofs for previously incomplete theorems
automatically generated and optimized by Gauss, Math Inc's
autoformalization agent.

Theorems solved:
- `Delta_imag_axis_real`
- `Delta_imag_axis_pos`

### CODE REVIEW

**Comment by deancureton** [comment]
Hi Seewoo, the linter warnings should be resolved now! Please let us know if there's anything else that needs to be done for the PR.

File: SpherePacking/ModularForms/Delta.lean [hunk 1]
```diff
@@ -485,16 +485,116 @@ lemma cexp_aux4 (t : ℝ) (n : ℕ) : (cexp (-2 * π * (n + 1) * t)).im = 0 := b
 lemma cexp_aux5 (t : ℝ) : (cexp (-(2 * π * t))).im = 0 := by
   simpa [Complex.ofReal_mul, Complex.ofReal_neg] using exp_ofReal_im (-(2 * π * t))
 
+/- Auxiliary lemmas for imaginary part of products and powers -/
+lemma Complex.im_finset_prod_eq_zero_of_im_eq_zero {ι : Type*} (s : Finset ι)
+    (f : ι → ℂ) (h : ∀ i ∈ s, (f i).im = 0) :
+    (∏ i ∈ s, f i).im = 0 :=
+by
```
Comment (seewoo5) [inline SpherePacking/ModularForms/Delta.lean]:
```suggestion
    (∏ i ∈ s, f i).im = 0 := by
```

File: SpherePacking/ModularForms/Delta.lean [hunk 2]
```diff
@@ -485,16 +485,116 @@ lemma cexp_aux4 (t : ℝ) (n : ℕ) : (cexp (-2 * π * (n + 1) * t)).im = 0 := b
...
+  classical
+  revert h; refine Finset.induction_on s (fun _ => by simp) ?_; intro a s ha ih h
+  simp [Finset.prod_insert, ha, Complex.mul_im, h a (by simp),
+    ih (fun i hi => h i (by simp [hi]))]
+
+lemma Complex.im_pow_eq_zero_of_im_eq_zero {z : ℂ} (hz : z.im = 0) (m : ℕ) :
+    (z ^ m).im = 0 :=
+by
```
Comment (seewoo5) [inline SpherePacking/ModularForms/Delta.lean]:
```suggestion
    (z ^ m).im = 0 := by
```

File: SpherePacking/ModularForms/Delta.lean [hunk 3]
```diff
@@ -485,16 +485,116 @@ lemma cexp_aux4 (t : ℝ) (n : ℕ) : (cexp (-2 * π * (n + 1) * t)).im = 0 := b
...
+  induction m with
+  | zero => simp
+  | succ m ih => simp [pow_succ, Complex.mul_im, *]
+
+lemma Complex.im_tprod_eq_zero_of_im_eq_zero (f : ℕ → ℂ)
+    (hf : Multipliable f) (him : ∀ n, (f n).im = 0) :
+    (∏' n : ℕ, f n).im = 0 :=
+by
```
Comment (seewoo5) [inline SpherePacking/ModularForms/Delta.lean]:
```suggestion
    (∏' n : ℕ, f n).im = 0 := by
```

File: SpherePacking/ModularForms/Delta.lean [hunk 4]
```diff
@@ -485,16 +485,116 @@ lemma cexp_aux4 (t : ℝ) (n : ℕ) : (cexp (-2 * π * (n + 1) * t)).im = 0 := b
...
+  exact tendsto_nhds_unique h1 h2
+
 /- Δ(it) is real on the (positive) imaginary axis. -/
-lemma Delta_imag_axis_real {t : ℝ} (ht : 0 < t) : (ResToImagAxis Delta t).im = 0 := by
-  simp [ResToImagAxis, ht]
-  rw [Delta_apply, Δ]
-  simp [cexp_aux1, cexp_aux2, cexp_aux5]
-  sorry
+lemma Delta_imag_axis_real {t : ℝ} (ht : 0 < t) : (ResToImagAxis Delta t).im = 0 :=
+by
```
Comment (seewoo5) [inline SpherePacking/ModularForms/Delta.lean]:
```suggestion
lemma Delta_imag_axis_real {t : ℝ} (ht : 0 < t) : (ResToImagAxis Delta t).im = 0 := by
```

File: SpherePacking/ModularForms/Delta.lean [hunk 5]
```diff
@@ -485,16 +485,116 @@ lemma cexp_aux4 (t : ℝ) (n : ℕ) : (cexp (-2 * π * (n + 1) * t)).im = 0 := b
...
+  have him_pref : (cexp (2 * π * Complex.I * (Complex.I * t))).im = 0 := by
+    have : (cexp (-(2 * (π : ℂ) * t))).im = 0 := by simpa using cexp_aux5 t
+    simpa [by simpa using hArg 0] using this
+  simp [g, him_pref, htprod_im]
+
+lemma re_ResToImagAxis_Delta_eq_real_prod (t : ℝ) (ht : 0 < t) :
+  (ResToImagAxis Delta t).re =
+    Real.exp (-2 * π * t) *
+      ∏' (n : ℕ), (1 - Real.exp (-(2 * π * ((n + 1) : ℝ) * t))) ^ 24 :=
+by
```
Comment (seewoo5) [inline SpherePacking/ModularForms/Delta.lean]:
```suggestion
      ∏' (n : ℕ), (1 - Real.exp (-(2 * π * ((n + 1) : ℝ) * t))) ^ 24 := by
```

File: SpherePacking/ModularForms/Delta.lean [hunk 6]
```diff
@@ -485,16 +485,116 @@ lemma cexp_aux4 (t : ℝ) (n : ℕ) : (cexp (-2 * π * (n + 1) * t)).im = 0 := b
...
+  exact Real.exp_pos _
 
 /- Δ(it) is positive on the (positive) imaginary axis. -/
-lemma Delta_imag_axis_pos {t : ℝ} (ht : 0 < t) : 0 < (ResToImagAxis Delta t).re := by
-  simp [ResToImagAxis, ht]
-  rw [Delta_apply, Δ]
-  simp [cexp_aux1, cexp_aux2, cexp_aux5]
-  sorry
+lemma Delta_imag_axis_pos {t : ℝ} (ht : 0 < t) : 0 < (ResToImagAxis Delta t).re :=
+by
```
Comment (seewoo5) [inline SpherePacking/ModularForms/Delta.lean]:
```suggestion
lemma Delta_imag_axis_pos {t : ℝ} (ht : 0 < t) : 0 < (ResToImagAxis Delta t).re := by
```

File: SpherePacking/ModularForms/Delta.lean [hunk 7]
```diff
@@ -485,16 +485,116 @@ lemma cexp_aux4 (t : ℝ) (n : ℕ) : (cexp (-2 * π * (n + 1) * t)).im = 0 := b
...
+        (g := Complex.ofRealHom.toMonoidHom)
+        (hg := by simpa using Complex.continuous_ofReal)
+        (hg' := Complex.continuous_re)
+        (hgg' := by intro x; simp))
+  simpa [ResToImagAxis, ht, Delta_apply, Δ, cexp_aux1, cexp_aux2, hMap', fR] using
+    Complex.ofReal_re (Real.exp (-2 * π * t) * ∏' n : ℕ, fR n)
+
+lemma tprod_pos_nat_im (z : ℍ) :
+  0 < ∏' (n : ℕ), (1 - Real.exp (-(2 * π * ((n + 1) : ℝ) * z.im))) ^ 24 :=
+by
```
Comment (seewoo5) [inline SpherePacking/ModularForms/Delta.lean]:
```suggestion
  0 < ∏' (n : ℕ), (1 - Real.exp (-(2 * π * ((n + 1) : ℝ) * z.im))) ^ 24 := by
```

File: SpherePacking/ModularForms/Delta.lean [hunk 8]
```diff
@@ -485,16 +485,116 @@ lemma cexp_aux4 (t : ℝ) (n : ℕ) : (cexp (-2 * π * (n + 1) * t)).im = 0 := b
...
+  have ht : 0 < z.im := by simpa using z.2
+  have hpos_pow : ∀ n : ℕ, 0 < (1 - Real.exp (-(2 * π * ((n + 1) : ℝ) * z.im))) ^ 24 :=
+    fun n =>
+      pow_pos (by simpa [mul_comm, mul_left_comm, mul_assoc] using cexp_aux3 (t := z.im) n ht) _
```
Comment (seewoo5) [inline SpherePacking/ModularForms/Delta.lean]:
```suggestion
  have hpos_pow : ∀ n : ℕ, 0 < (1 - Real.exp (-(2 * π * ((n + 1) : ℝ) * z.im))) ^ 24 :=
    fun n =>
      pow_pos (by simpa [mul_comm, mul_left_comm, mul_assoc] using cexp_aux3 (t := z.im) n z.2) _
```

File: SpherePacking/ModularForms/Delta.lean [hunk 9]
```diff
@@ -485,16 +485,116 @@ lemma cexp_aux4 (t : ℝ) (n : ℕ) : (cexp (-2 * π * (n + 1) * t)).im = 0 := b
...
-  simp [cexp_aux1, cexp_aux2, cexp_aux5]
-  sorry
+lemma Delta_imag_axis_pos {t : ℝ} (ht : 0 < t) : 0 < (ResToImagAxis Delta t).re :=
+by
+  have hprod :
+      0 < ∏' (n : ℕ), (1 - Real.exp (-(2 * π * ((n + 1) : ℝ) * t))) ^ 24 := by
+    let z : ℍ := ⟨Complex.I * t, by simp [ht]⟩
+    have hz : z.im = t := by
+      change (Complex.I * (t : ℂ)).im = t
+      simp
```
Comment (seewoo5) [inline SpherePacking/ModularForms/Delta.lean]:
```suggestion
    have hz : z.im = t := by simp [UpperHalfPlane.im, z]
```
(suggested by codex)

**Review by seewoo5 — COMMENTED** [review]
Mostly styling + tiny golfs, but others look good to me!
